US07989461B2
4-(2-(1-Chloro-6-methylisoquinolin-5-yloxy)pyridin-3-yl)-N-methylpyrimidin-2-amine (0.150 g, 0.40 mmol) was suspended in dioxane (1.00 mL) to which mixture was added 3-(trifluoromethoxy)aniline (0.12 ml, 0.79 mmol). 4N HCl in dioxane (1.00 mL) was added and the mixture was stirred. The vessel was sealed and heated to 170° C. in microwave for 15 minutes. The reaction mixture was treated with 2M ammonia in methanol and concentrated directly onto silica gel. The material was chromatographed eluting with a gradient of EtOAc/hexanes (15-100%) followed by trituration of the pure material in EtOAc to afforded 6-methyl-5-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)-N-(3-(trifluoromethoxy)phenyl)isoquinolin-1-amine. MS (M+H)+ 519.

reactant | 4-(2-(1-Chloro-6-methylisoquinolin-5-yloxy)pyridin-3-yl)-N-methylpyrimidin-2-amine | 0.40 mmol, 0.150 g | ClC1=NC=CC2=C(C(=CC=C12)C)OC1=NC=CC=C1C1=NC(=NC=C1)NC | C20H16ClN5O
reactant | 3-(trifluoromethoxy)aniline | 0.79 mmol, 0.12 ml | FC(OC=1C=C(N)C=CC1)(F)F | C7H6F3NO
reactant | HCl | 4N | Cl | ClH
reactant | ammonia | 2M | N | H3N
solvent | dioxane | 1.00 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1.00 mL | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | 6-methyl-5-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)-N-(3-(trifluoromethoxy)phenyl)isoquinolin-1-amine | CC=1C(=C2C=CN=C(C2=CC1)NC1=CC(=CC=C1)OC(F)(F)F)OC1=NC=CC=C1C1=NC(=NC=C1)NC | C27H21F3N6O2
